US07294610B2
A round bottom flask fitted with an overhead stirrer was charged with C4F9SO2N(C3H7)(CH2)5COOC2H5 (63.0 g; 0.143 mole), KOH (13.1 g; 0.234 mole; pellets) isopropanol (26 mL) and deionized water (21 mL). The ensuing mixture was refluxed overnight, cooled to room temperature, yielding a solution of C4F9SO2N(C3H7)(CH2)5COOK (61.3% solids).

reactant | C4F9SO2N(C3H7)(CH2)5COOC2H5 | 0.143 mole, 63.0 g | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)F)S(=O)(=O)N(CCC)CCCCCC(=O)OCC | C15H22F9NO4S
reactant | KOH | 0.234 mole, 13.1 g | [OH-].[K+]
reactant | isopropanol | 26 mL | C(C)(C)O | C3H8O
solvent | water | 21 mL | O | H2O
product | C4F9SO2N(C3H7)(CH2)5COOK | 61.3% | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)F)S(=O)(=O)N(CCC)CCCCCC(=O)O[K] | InChI=1S/C13H18F9NO4S.K/c1-2-7-23(8-5-3-4-6-9(24)25)28(26,27)13(21,22)11(16,17)10(14,15)12(18,19)20;/h2-8H2,1H3,(H,24,25);/q;+1/p-1
